US04897489
A procedure similar to Example 1 (a), using 143 mg of (E)-2-cyanovinylthioacetic acid and 300 mg of benzhydryl ester of a deacetyl compound of TAN-588, gave 284 mg of benzhydryl 2-((4S)-4-[(E)-2-cyanovinylthioacetamido]-3-oxo-2-isoxazolidinyl]-5-oxo-2-tetrahydrofurancarboxylate.

reactant | (E)-2-cyanovinylthioacetic acid | 143 mg | C(#N)/C=C/CC(=S)O | C5H5NOS
reactant | benzhydryl 2-[(4S)-4-amino-3-oxo-2-isoxazolidinyl]-5-oxo-2-tetrahydrofurancarboxylate | N[C@@H]1C(N(OC1)C1(OC(CC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H20N2O6
product | benzhydryl 2-((4S)-4-[(E)-2-cyanovinylthioacetamido]-3-oxo-2-isoxazolidinyl]-5-oxo-2-tetrahydrofurancarboxylate | 284 mg | C(#N)/C=C/CC(=S)N[C@@H]1C(N(OC1)C1(OC(CC1)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H23N3O6S
